US04256757
(1) 3-methyl-8-(tetrahydropyran-2-yloxy)octanoic acid sec-butyl ester
Under an atmosphere of nitrogen, a mixture of 250 mg of magnesium, 2.8 g of 5-bromo-1-(tetrahydropyran-2-yloxy)pentane, 200 μl of ethyl bromide, a trace amount of iodine and 4 ml of tetrahydrofuran was refluxed with heating for one hour. To it were added 516 mg of crotonic acid sec-butyl ester and 14 mg of cuprous chloride at 0° C. over a period of 30 minutes, the mixture stirred at 0° C. for 15 minutes, and then at room temperature for one hour. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride, extracted with ethyl acetate, the extract washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of methylene chloride and ethyl acetate (20:1) as eluent to give 529 mg of the subtitle compound having the following physical characteristics:

reactant | magnesium | 250 mg | [Mg] | Mg
reactant | 5-bromo-1-(tetrahydropyran-2-yloxy)pentane | 2.8 g | BrCCCCCOC1OCCCC1 | C10H19BrO2
reactant | ethyl bromide | 200 μl | C(C)Br | C2H5Br
reactant | iodine | II | I2
reactant | crotonic acid sec-butyl ester | 516 mg | C(C)(CC)OC(\C=C\C)=O | C8H14O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3-methyl-8-(tetrahydropyran-2-yloxy)octanoic acid sec-butyl ester | 529 mg | C(C)(CC)OC(CC(CCCCCOC1OCCCC1)C)=O | C18H34O4
